US07345068B2
Palladium hydroxide carbon (50% water content, 180 mg) was added to a solution of N-t-butoxycarbonyl-3-[(2-naphthoyl)methoxy]-L-phenylalanine methyl ester (400 mg, 0.863 mmol) in methanol (13 ml) and the mixture was stirred in hydrogen stream at room temperature for 20 hrs. The catalyst was filtered off and the solvent of the filtrate was distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=7) to give N-t-butoxycarbonyl-3-[2-[2-(5,6,7,8-tetrahydro-naphthyl)]ethoxy]-L-phenylalanine methyl ester (132 mg, 34%) and methyl ester of N-t-butoxycarbonyl-3-[2-(2-naphthyl)ethoxy]-L-phenylalanine (134 mg, 34%) (in turn of elution).

reactant | N-t-butoxycarbonyl-3-[(2-naphthoyl)methoxy]-L-phenylalanine methyl ester | 0.863 mmol, 400 mg | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=CC=C1)OCC(=O)C1=CC2=CC=CC=C2C=C1)=O | C27H29NO6
solvent | methanol | 13 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide carbon | 180 mg | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | N-t-butoxycarbonyl-3-[2-(2-naphthyl)ethoxy]-L-phenylalanine | 134 mg, 34% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC(=CC=C1)OCCC1=CC2=CC=CC=C2C=C1)C(=O)O | C26H29NO5
